* AD103 capstone - the voltage transfer curve of a CMOS inverter
*
* One PMOS on top, one NMOS underneath, gates tied together as the input,
* drains tied together as the output. That is the entire circuit:
*
*        vdd
*         |
*      [ PMOS ]  <- gate = in
*         |
*         +----- out
*         |
*      [ NMOS ]  <- gate = in
*         |
*        gnd
*
* Both W = 1 um, L = 0.15 um. That is the naive sizing - the one you would
* draw if nobody had told you otherwise - and it is the point of the exercise.
*
* Vin sweeps 0 -> 1.8 V in 1 mV steps, 1801 points. At every step ngspice
* solves for the one output voltage at which the two transistors carry the
* same current, because they are in series and nothing else is connected.
*
*   ngspice -b spice/vtc.spice
*
* Columns written: v(in) v(out) i(vdd)
* i(vdd) is the current the supply delivers - zero at both ends, and very much
* not zero in the middle.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

Vdd vdd 0 1.8
Vin in  0 0

XN out in 0   0   sky130_fd_pr__nfet_01v8 L=0.15 W=1
XP out in vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1

.control
dc Vin 0 1.8 0.001
let idd = -i(Vdd)
wrdata results/vtc.txt v(out) idd
.endc
.end
